US07060827B2
In like manner to the preparation of 3-(N-morpholinocarbonyl)aniline, 3-nitrobenzoylchloride and ethyl isonipecotate were reacted to prepare 1-[4-(ethoxycarbonyl)piperidinocarbonyl]-3-nitrobenzene which underwent hydrogenation to provide 3-[4-(ethoxycarbonyl)piperidinocarbonyl]aniline.

reactant | 3-nitrobenzoylchloride | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
reactant | ethyl isonipecotate | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | 1-[4-(ethoxycarbonyl)piperidinocarbonyl]-3-nitrobenzene | C(C)OC(=O)C1CCN(CC1)C(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C15H18N2O5
product | 3-[4-(ethoxycarbonyl)piperidinocarbonyl]aniline | C(C)OC(=O)C1CCN(CC1)C(=O)C=1C=C(N)C=CC1 | C15H20N2O3
